US07501421B2
Preparation of 4-(6-Aminobenzothiazol-2-yl)piperazine-1-carboxylic acid benzyl ester
A mixture of 4-(6-nitrobenzothiazol-2-yl)piperazine-1-carboxylic acid benzyl ester (1.13 g, 2.84 mmol), SnCl2 (2.56 g, 11.3 mmol), and conc. HCl (0.35 mL, 4.25 mmol) in EtOH was heated at 70° C. overnight, diluted with water, neutralized with 1 N NaOH to pH 10, and extracted with CH2Cl2. The combined extracts were filtered through a pad of silica gel. The filtrate was concentrated in vacuo to provide the title compound (0.80 g, 77%), characterized by NMR and mass spectral analyses.

reactant | 4-(6-nitrobenzothiazol-2-yl)piperazine-1-carboxylic acid benzyl ester | 2.84 mmol, 1.13 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C19H18N4O4S
reactant | SnCl2 | 11.3 mmol, 2.56 g | Cl[Sn]Cl
reactant | HCl | 4.25 mmol, 0.35 mL | Cl | ClH
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
solvent | water | O | H2O
product | 4-(6-Aminobenzothiazol-2-yl)piperazine-1-carboxylic acid benzyl ester | 0.80 g, 77% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1SC2=C(N1)C=CC(=C2)N | C19H20N4O2S
